US06046216
A mixture of methyl 3-(3-cyano-1,2-dihydro-2-oxo-6-pyridinyl)-4-propoxybenzoate (2.0 g) and 1 Normal sodium hydroxide (30 ml) was heated under reflux for 45 minutes and the resultant solution was acidified to give a quantitative yield of 3-(3-cyano-1,2-dihydro-2-oxo-6-pyridinyl)-4-propoxybenzoic acid, m.p. 277-279° C. This acid was heated with thionyl chloride (10 ml) for 90 minutes, the solution was evaporated, and the acid chloride was dissolved in dichloromethane (60 ml). Methylamine was passed slowly through the stirred solution for 45 minutes and both the resultant solid and solution were washed with dilute hydrochloric acid and water. The solid was combined with the residue left after evaporation of the solution to give 1.66 g of solid m.p. 234-236° C. Recrystallization from ethanol gave the title compound, m.p. 235-237° C.

reactant | methyl 3-(3-cyano-1,2-dihydro-2-oxo-6-pyridinyl)-4-propoxybenzoate | 2.0 g | C(#N)C=1C(NC(=CC1)C=1C=C(C(=O)OC)C=CC1OCCC)=O | C17H16N2O4
solvent | sodium hydroxide | 30 ml | [OH-].[Na+]
product | 3-(3-cyano-1,2-dihydro-2-oxo-6-pyridinyl)-4-propoxybenzoic acid | quantitative yield | C(#N)C=1C(NC(=CC1)C=1C=C(C(=O)O)C=CC1OCCC)=O | C16H14N2O4
